US07214680B2
A solution of chloroacetyl chloride (11.4 mL) was added drop-wise over 1 hour to a stirred solution of benzylamine (15 mL) and TEA (23 mL) in dry TFP (200 mL) previously cooled at 0–3° C. under a Nitrogen atmosphere. The dark suspension was allowed to warm gradually to r.t. and then stirred at r.t. for 3 hours. The inorganic salts were filtered and washed with AcOEt (300 mL). The filtrate was washed with 2N hydrochloric acid solution (2×250 mL), sodium hydrogen carbonate (2×200 mL) and water (200 mL). The organic layer was dried and concentrated in vacuo to give a dark solid, which was crystallized from Et2O/CH (1:1, 700 mL) to give N-benzyl-2-chloroacetamide (17.8 g) as a grey solid (T.l.c.: AcOEt 100%, Rf=0.47).

reactant | chloroacetyl chloride | 11.4 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | benzylamine | 15 mL | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-2-chloroacetamide | 17.8 g | C(C1=CC=CC=C1)NC(CCl)=O | C9H10ClNO
